* Wurlitzer 200A Power Amplifier
* Quasi-complementary Class AB push-pull, ~20W into 8 ohms.
* Flattened from openwurli/spice/subcircuits/power_amp.cir for melange codegen.
* Transistor models: full Gummel-Poon from SPICE validation library.
*
* Topology: PNP diff pair (TR-7/TR-8) -> NPN VAS (TR-14) ->
*   Vbe multiplier (TR-9) -> Sziklai output pairs (TR-10/11, TR-12/13)
*   -> emitter resistors -> output. Negative feedback via R-31/R-30.
*
* No variable elements (no pots). Volume pot is upstream.

* --- Input coupling ---
C8    in     in_ac   4.7U
C9    in_ac  0       1N
Cpar  in     0       1P

* --- Input bias ---
R27   in_ac  0       15K

* --- Differential pair (TR-7, TR-8: PNP 2N5087) ---
R28   emit_pair  vreg15    10K
Q7    coll7    in_ac     emit_pair   Q2N5087
Q8    coll8    fb_inv    emit_pair   Q2N5087

* --- Collector loads ---
R29      coll7   vn    1K
R_coll8  coll8   vn    1m

* --- Negative feedback network ---
R31   out     fb_inv   15K
R30   fb_inv  c10_node 220
C10   c10_node 0       22U

* --- VAS / pre-driver (TR-14: NPN MPSA06) ---
Q14   drv_bot   coll7    vn   QMPSA06

* --- Miller compensation ---
C11   drv_bot   coll7   100P

* --- Bootstrapped VAS collector load ---
R32   vp     boot      1.8K
R33   boot   vas_out   1.8K
C12   boot   out       100U

* --- Vbe multiplier / bias control (TR-9: NPN MPSA06) ---
Q9    vas_out   bias_mid   drv_bot   QMPSA06

R34   vas_out   bias_mid   160
R35   bias_mid  drv_bot    220

* --- Top Sziklai: TR-10 (NPN driver) + TR-11 (PNP output TIP36C) ---
Q10   base11   vas_out   nodeC    QMPSA06
Q11   nodeC    base11    vp       QTIP36C
R36   base11   vp        270
* C-13: 100 pF across TR-10 collector-base (drawn).
C13   base11   vas_out   100P

* --- Bottom Sziklai: TR-12 (PNP driver) + TR-13 (NPN output TIP35C) ---
Q12   base13   drv_bot   nodeD    QMPSA56
Q13   nodeD    base13    vn       QTIP35C
R39   base13   vn        270
* C-14: 100 pF across TR-12 collector-base (drawn).
C14   base13   drv_bot   100P

* --- Output emitter resistors ---
R37   nodeC   out   0.47
R38   nodeD   out   0.47

* --- Output Zobel (drawn): R-40 12 ohm + C-15 0.1 uF, output to ground ---
R40   out     zob   12
C15   zob     0     0.1U

* --- Speaker load (8 ohm = two 16-ohm in parallel) ---
R_load out   0   8

* --- Supply ---
* Static DC bias is +/-22.5V (nominal service-manual spec). The Rust
* adapter pushes per-sample offsets via .runtime V to model rail sag
* (idle ~+/-24.5V, sagging toward +/-22V at rated load). Calibration
* anchor: docs/research/output-stage.md §4.3.1 + power_supply.cir.
V1    vp   0   DC 22.5
.runtime V1 as v_rail_pos_offset
V2    0    vn  DC 22.5
.runtime V2 as v_rail_neg_offset

* +15 V REGULATED rail (drawn). R-28, the diff-pair tail, is the only
* power-amp part on it. Vreg15 is an ideal source standing in for the IC-1
* regulator; being regulated it is deliberately STATIC and does not follow
* the .runtime rail sag on V1/V2.
Vreg15 vreg15 0 DC 15

* --- Device models (full Gummel-Poon from SPICE validation) ---

.model Q2N5087 PNP(IS=3.18e-14 BF=254.8 NF=1.003 VAF=115
+ IKF=0.01 ISE=5.32e-15 NE=1.34 BR=3.56 NR=1.005 VAR=26
+ IKR=0.01 ISC=1.7e-13 NC=1.214 RB=120 RE=0.5 RC=2
+ CJE=3.33e-12 VJE=0.65 MJE=0.33 CJC=1.66e-12 VJC=0.4 MJC=0.33
+ TF=7.2e-10 TR=1e-7 XTB=1.4 EG=1.11 XTI=3)

.model QMPSA06 NPN(IS=1.5e-14 BF=200 NF=1 VAF=100
+ IKF=0.2 ISE=5e-13 NE=1.5 BR=4 NR=1 VAR=20
+ IKR=0.1 RB=10 RE=0.3 RC=0.5
+ CJE=10e-12 VJE=0.7 MJE=0.33 CJC=6e-12 VJC=0.5 MJC=0.33
+ TF=3.5e-10 TR=1e-7 XTB=1.5 EG=1.11 XTI=3)

.model QMPSA56 PNP(IS=1.5e-14 BF=200 NF=1 VAF=100
+ IKF=0.2 ISE=5e-13 NE=1.5 BR=4 NR=1 VAR=20
+ IKR=0.1 RB=10 RE=0.3 RC=0.5
+ CJE=10e-12 VJE=0.7 MJE=0.33 CJC=6e-12 VJC=0.5 MJC=0.33
+ TF=3.5e-10 TR=1e-7 XTB=1.5 EG=1.11 XTI=3)

.model QTIP35C NPN(IS=5e-12 BF=60 NF=1 VAF=80
+ IKF=5 ISE=3e-10 NE=1.8 BR=5 NR=1 VAR=20
+ IKR=1 RB=0.5 RE=0.02 RC=0.05
+ CJE=200e-12 VJE=0.7 MJE=0.33 CJC=150e-12 VJC=0.5 MJC=0.33
+ TF=2e-8 TR=5e-7 XTB=1.5 EG=1.11 XTI=3)

.model QTIP36C PNP(IS=5e-12 BF=40 NF=1 VAF=60
+ IKF=5 ISE=3e-10 NE=1.8 BR=4 NR=1 VAR=20
+ IKR=1 RB=0.5 RE=0.02 RC=0.05
+ CJE=200e-12 VJE=0.7 MJE=0.33 CJC=180e-12 VJC=0.5 MJC=0.33
+ TF=2.5e-8 TR=5e-7 XTB=1.5 EG=1.11 XTI=3)

* Q9 (Vbe multiplier / bias spreader) linearized — settled 2026-08-03 with
* Sidecar validation: canonical .linearize target (must-not-clip bias spreader),
* ~3x CPU win vs full-GP Q9 (M=14 vs M=16). Coexists with .runtime rail sag —
* sag clipping lives in the active output devices; the spread stays constant.
.linearize Q9
